US07098219B2
5-Amino-1-cyclopropyl-6,8-difluoro-1,4-dihydro-7-(5′-amino-2′-methyl-pyrrolidin-1-yl)-4-oxo-quinoline-3-carboxylic acid
The condensation of 5-amino-1-cyclopropyl-6,7,8-trifluoro-1,4-dihydro-4-oxo-quinoline-3-carboxylic acid with 5-amino-2-methyl-pyrrolidine in a similar manner as described in example 1 gave the titled product. Yield 40%, m.p 224–30° C., C18H20F2N4O3, m/z 379. (M+1)

reactant | 5-amino-1-cyclopropyl-6,7,8-trifluoro-1,4-dihydro-4-oxo-quinoline-3-carboxylic acid | NC1=C2C(C(=CN(C2=C(C(=C1F)F)F)C1CC1)C(=O)O)=O | C13H9F3N2O3
reactant | 5-amino-2-methyl-pyrrolidine | NC1CCC(N1)C | C5H12N2
product | 5-Amino-1-cyclopropyl-6,8-difluoro-1,4-dihydro-7-(5′-amino-2′-methyl-pyrrolidin-1-yl)-4-oxo-quinoline-3-carboxylic acid | Yield 40% | NC1=C2C(C(=CN(C2=C(C(=C1F)N1C(CCC1N)C)F)C1CC1)C(=O)O)=O | C18H20F2N4O3
